US07655670B2
1-(hydroxyethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one (Compound #52)
1-(Tetrahydropyran-2-yl-oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one (0.021 g, 0.05 mmol) was dissolved in methanol (2 mL). To the reaction mixture was then added at room temperature aqueous 1.0N HCl (80 μL) and the reaction mixture was stirred for 30 minutes. The reaction mixture was then partitioned with aqueous Na2CO3 and ethyl acetate. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield the title compound as a solid.

reactant | 1-(Tetrahydropyran-2-yl-oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one | 0.05 mmol, 0.021 g | O1C(CCCC1)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)OC(C)(C)C)=O | C24H34N2O5
reactant | HCl | 1.0N, 80 μL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 1-(hydroxyethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one | OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)OC(C)(C)C)=O | C19H26N2O4
